US04353901
A solution of 1-oxa-4,9-diazaspiro[5.5]undecan-3-one (2.5 g.) and 3.0 g. of 2-(1,4-benzodioxan-2-yl)ethyl bromide in 40 ml of dimethylformamide and 10 ml of triethylamine was heated to 70° C. for 3 hours. The mixture was poured into water, extracted with methylene chloride, and the methylene chloride was extracted with aqueous HCl. The aqueous extract was made basic with ammonium hydroxide and extracted with methylene chloride and the methylene chloride layer was evaporated to give 9-[2-(1,4-benzodioxan-2-yl)ethyl]-1-oxa-4,9-diazaspiro[5.5]undecan-3-one, m.p. 139°-140° C. The base was converted to the HCl salt of 9-[2-(1,4-benzodioxan-2-yl)ethyl]-1-oxa-4,9-diazaspiro-[5.5]undecan-3-one by dissolution in methanolic HCl and precipitation with ether, m.p. 225°-227° C.

reactant | 1-oxa-4,9-diazaspiro[5.5]undecan-3-one | 2.5 g | O1CC(NCC12CCNCC2)=O | C8H14N2O2
reactant | 2-(1,4-benzodioxan-2-yl)ethyl bromide | O1C(COC2=C1C=CC=C2)CCBr | C10H11BrO2
reactant | water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
product | 9-[2-(1,4-benzodioxan-2-yl)ethyl]-1-oxa-4,9-diazaspiro[5.5]undecan-3-one | O1C(COC2=C1C=CC=C2)CCN2CCC1(CNC(CO1)=O)CC2 | C18H24N2O4
